US07642270B2
A. 4-[(2-Cyano-ethyl)-phenyl-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester
The title compound was prepared from ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate (3.7 g, 15.8 mmol) and 3-phenylamino-propionitrile (2.3 g, 15.8 mmol) according to the procedure outlined in Example 1 (B). The product was purified chromatographically (silica, EtOAc/hexanes 1:20-1:2, v/v). A white solid was obtained (3.5 g, 65%). 1H NMR (300 MHz, CDCl3) δ (ppm): 8.32 (s, 1H), 7.34(m, 2H), 7.20 (m, 1H), 7.13 (m, 2H), 4.32 (t, J=7.1 Hz, 2H), 3.56 (q, J=7.1 Hz, 2H), 2.75 (t, J=7.1 Hz, 2H), 2.55 (s, 3H), 1.00 (t, J=7.2 Hz, 3H).

reactant | ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate | 15.8 mmol, 3.7 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | 3-phenylamino-propionitrile | 15.8 mmol, 2.3 g | C1(=CC=CC=C1)NCCC#N | C9H10N2
product | 4-[(2-Cyano-ethyl)-phenyl-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)SC)N(C1=CC=CC=C1)CCC#N | C17H18N4O2S
